US08039455B2
g) 3-(Allyl-benzyloxycarbonyl-amino)-5-oxazol-2-yl-benzoic acid
3-(Allyl-benzyloxycarbonyl-amino)-5-oxazol-2-yl-benzoic acid methyl ester (300 mg, 757 μmol, 1 eq) is dissolved in methanol (10 ml) and H2O (4 ml). LiOH*H2O (100 mg, 2.37 mmol, 3.13 eq) is added to the reaction mixture, which is stirred for 8 h at rt and then diluted with HCl (1N in H2O) and DCM. The combined organic solvents are separated and washed with brine, dried over sodium sulfate, filtered and concentrated. The resulting crystals are washed with hexane and dried under vacuum to give the product.

reactant | 3-(Allyl-benzyloxycarbonyl-amino)-5-oxazol-2-yl-benzoic acid methyl ester | 757 μmol, 300 mg, 1 eq | COC(C1=CC(=CC(=C1)C=1OC=CN1)N(C(=O)OCC1=CC=CC=C1)CC=C)=O | C22H20N2O5
reactant | LiOH | 2.37 mmol, 100 mg, 3.13 eq | [Li+].[OH-]
solvent | methanol | 10 ml | CO | CH4O
solvent | H2O | 4 ml | O | H2O
solvent | HCl | 1N | Cl | ClH
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3-(Allyl-benzyloxycarbonyl-amino)-5-oxazol-2-yl-benzoic acid | C(C=C)N(C=1C=C(C(=O)O)C=C(C1)C=1OC=CN1)C(=O)OCC1=CC=CC=C1 | C21H18N2O5
